US05461036
To 12-bromododecanoic acid (1 g) dissolved in acetonitrile (50 ml) was added calcium chloride (2 g) and tetra-n-butylammonium chloride (1.2 g), and the mixture was heated under reflux for 4 hours. The reaction mixture was filtered, concentrated and distributed into ethyl acetate-water, and the ethyl acetate layer was dried over anhydrous sodium sulfate to give 12-chlorododecanoic acid. After a 280 mg portion of 12-chlorododecanoic acid thus obtained, para-nitrophenol (167 mg) and N,N'-dicyclohexylcarbodiimide (245 mg) in N,N-dimethylformamide (DMF) was stirred for 12 hours, precipitates were removed by filtration and DMF was removed by distillation to give an active ester. To the active ester of 12-chlorododecanoic acid dissolved in DMF were added 6-(4'-N-glycyl-spicaminyl-amino)purine hydrochloride (456 mg) and triethylamine (1.2 ml ), and the mixture was stirred for 12 hours. The reaction mixture was concentrated and subjected to chromatography on a silica gel column with eluent systems of chloroform-methanol (from 7:1 to 5:1) to give SPK132 in the yield of mg.

reactant | 12-bromododecanoic acid | 1 g | BrCCCCCCCCCCCC(=O)O | C12H23BrO2
reactant | calcium chloride | 2 g | [Cl-].[Ca+2].[Cl-]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
catalyst | tetra-n-butylammonium chloride | 1.2 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 12-chlorododecanoic acid | ClCCCCCCCCCCCC(=O)O | C12H23ClO2
